### PR TITLE
[Merged by Bors] - feat: path-connectedness is preserved by homeomorphisms

### PR DESCRIPTION
**Pull request by grunweg**
Mirrors the corresponding proofs for connectedness.

Co-authored-by: @ADedecker

### CODE REVIEW

**Comment by grunweg** [comment]
Removing easy label as this PR adds two simp lemmas (even though they're probably uncontroversial). Sorry for the churn.

File: Mathlib/Topology/Connected/PathConnected.lean [hunk 1]
```diff
@@ -969,10 +970,25 @@ theorem IsPathConnected.image' {Y : Type*} [TopologicalSpace Y] (hF : IsPathConn
   refine ⟨(hx y_in).somePath.map' ?_, fun t ↦ ⟨_, (hx y_in).somePath_mem t, rfl⟩⟩
   exact hf.mono (range_subset_iff.2 (hx y_in).somePath_mem)
 
+/-- If `f` is continuous and `F` is path-connected, so is `f(F)`. -/
 theorem IsPathConnected.image {Y : Type*} [TopologicalSpace Y] (hF : IsPathConnected F) {f : X → Y}
     (hf : Continuous f) : IsPathConnected (f '' F) := hF.image' hf.continuousOn
 #align is_path_connected.image IsPathConnected.image
 
+/-- If `h : X → Y` is a homeomorphism, `h(s)` is path-connected iff `s` is. -/
+-- this is not in `Homeomorph.lean` to avoid import cycles
```
Comment (ADedecker) [inline Mathlib/Topology/Connected/PathConnected.lean:979]:
```suggestion
```
I don't think this is a controversial statement, so I'd remove this line. In fact, I would argue that `Homeomorph.isConnected_image` should be in the connectedness file, but that's not worth refactoring.

**Review by ADedecker — COMMENTED** [review]
LGTM!

If you're interested, I made a `Inducing` version. You'd need to add:
- in `UnitInterval.lean`: 
```lean
instance : NeZero (1 : I) := ⟨fun h ↦ one_ne_zero <| congrArg Subtype.val h⟩
```
- in `PathConnected.lean`:
```lean
theorem Specializes.joinedIn (h : x ⤳ y) (hx : x ∈ F) (hy : y ∈ F) : JoinedIn F x y := by
  refine ⟨⟨⟨Set.piecewise {1} (const I y) (const I x), ?_⟩, by simp, by simp⟩, fun t ↦ ?_⟩
  · simp only [const, continuous_def, piecewise_preimage]
    intro U hU
    by_cases hy' : y ∈ U
    · simp [hy', h.mem_open hU hy']
    · by_cases hx' : x ∈ U
      · simpa [hx', hy'] using isOpen_univ.sdiff isClosed_singleton
      · simp [hx', hy']
  · simp only [Path.coe_mk_mk, piecewise]
    split_ifs <;> assumption

theorem Inseparable.joinedIn (h : Inseparable x y) (hx : x ∈ F) (hy : y ∈ F) : JoinedIn F x y :=
  h.specializes.joinedIn hx hy
```
And then:
```lean
nonrec theorem Inducing.isPathConnected_iff {Y : Type*} [TopologicalSpace Y]
    {f : X → Y} (hf : Inducing f) :
    IsPathConnected F ↔ IsPathConnected (f '' F) := by
  refine ⟨fun hF ↦ hF.image hf.continuous, fun hF ↦ ?_⟩
  simp? [isPathConnected_iff] at hF ⊢ says
    simp only [isPathConnected_iff, nonempty_image_iff, mem_image, forall_exists_index,
      and_imp, forall_apply_eq_imp_iff₂] at hF ⊢
  refine ⟨hF.1, fun x hx y hy ↦ ?_⟩
  rcases hF.2 x hx y hy with ⟨γ, hγ⟩
  choose γ' hγ' hγγ' using hγ
  have key₁ : Inseparable x (γ' 0) := by rw [← hf.inseparable_iff, hγγ' 0, γ.source]
  have key₂ : Inseparable (γ' 1) y := by rw [← hf.inseparable_iff, hγγ' 1, γ.target]
  refine key₁.joinedIn hx (hγ' 0) |>.trans ⟨⟨⟨γ', ?_⟩, rfl, rfl⟩, hγ'⟩ |>.trans
    (key₂.joinedIn (hγ' 1) hy)
  simpa [hf.continuous_iff] using γ.continuous.congr fun t ↦ (hγγ' t).symm
```

If you prefer I can do that in a later PR.

File: Mathlib/Topology/Connected/PathConnected.lean (hunk 1 above)
Comment (grunweg) [reply Mathlib/Topology/Connected/PathConnected.lean]: Sure, removed.

**Comment by grunweg** [comment]
@ADedecker Wow! I didn't mean to nerd-snipe you - but now that you've suggested this, I have added it. I don't know how to add you as a co-author so git recognises this; feel free to force-push something/edit the top-level comment accordingly.

I saw that the file already had the implicit variables you mentioned, hence went over the file and removed all superfluous `{X : Type*} {TopologicalSpace X}` (also so Y). Let me know if I should drop that commit/move to a different PR.

**Comment by ADedecker** [comment]
Don't worry for nerd-sniping, that was very fun! I've added my name to the PR description. This looks good to me, but obviously I'm not going to merge it myself, I'll ask on Zulip.

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
